US04086350
Sodium hydride (0.1 mol) is suspended in 60 ml. of dry dimethylformamide and 0.1 mol of 3-chlorophenol in about 60 ml. of dimethylformamide is added dropwise maintaining the temperature at 25° C. When hydrogen evolution is completed, 0.1 mol of phthalide in about 60 ml. of dimethylformamide is added slowly at 25° C. The mixture is refluxed for two hours, stirred at room temperature overnight, poured into ice-water and extracted with ether. The aqueous fraction is acidified with concentrated hydrochloric acid and extracted with ether. The combined ether fraction is dried and concentrated to give 2-(3-chlorophenoxymethyl) benzoic acid, m.p. 154°-155° C.

reactant | Sodium hydride | 0.1 mol | [H-].[Na+]
reactant | 3-chlorophenol | 0.1 mol | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | hydrogen | [H][H] | H2
reactant | phthalide | 0.1 mol | C1(=O)OCC2=CC=CC=C12 | C8H6O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(3-chlorophenoxymethyl) benzoic acid | ClC=1C=C(OCC2=C(C(=O)O)C=CC=C2)C=CC1 | C14H11ClO3
